US03946018
1,4-Dihydro-1-(4'-chloroacetylamino-phenyl)-4,4-dimethyl-3(2H)-isoquinolinone
30.0 g. (0.1125 moles) of 1-(4'-aminophenyl)-1,4-dihydro-4,4-dimethyl-3(2H)-isoquinolinone are reacted in 280 ml. of glacial acetic acid with 14.7 g. (0.13 moles) of chloroacetyl chloride, in the presence of 13.5 g. (0.13 moles) of triethylamine. The reaction conditions are the same as described in Example 1. The crude product is recrystallized from ethanol to yield 25.15 g. of the title compound; m.p.: 218°-219°C.

reactant | 1-(4'-aminophenyl)-1,4-dihydro-4,4-dimethyl-3(2H)-isoquinolinone | 0.1125 moles | NC1=CC=C(C=C1)C1NC(C(C2=CC=CC=C12)(C)C)=O | C17H18N2O
reactant | chloroacetyl chloride | 0.13 moles | ClCC(=O)Cl | C2H2Cl2O
reactant | triethylamine | 0.13 moles | C(C)N(CC)CC | C6H15N
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1,4-Dihydro-1-(4'-chloroacetylamino-phenyl)-4,4-dimethyl-3(2H)-isoquinolinone | ClCC(=O)NC1=CC=C(C=C1)C1NC(C(C2=CC=CC=C12)(C)C)=O | C19H19ClN2O2
